US04663457
1-Cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid
To 1.00 g (3.53 mmol) of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 10.0 ml of acetonitrile and 0.54 g (3.53 mmol) of 1,8-diazobicyclo[5.4.0]undec-7-ene, was added 1.70 g (19.7 mmol) of piperazine. The mixture was refluxed for one hour and then stirred overnight. It was concentrated, dissolved in ammonium hydroxide and filtered. The filtrate was then concentrated to one-half volume and filtered to give 0.67 g of the title compound, mp >270° C.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.53 mmol, 1.00 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | piperazine | 19.7 mmol, 1.70 g | N1CCNCC1 | C4H10N2
solvent | acetonitrile | 10.0 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 0.67 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCNCC1)F)=O)C(=O)O | C17H17F2N3O3
